US04013774
A solution of 3.1 g (0.1 mole) methylamine and 10.1 g (0.1 mole) triethylamine in 100 ml acetonitrile was added dropwise to a solution of 23.4 g (0.1 mole) 1,1,2,2-tetrachloroethylsulfenyl chloride in 200 ml acetonitrile at about 0°-5° C. Into the reaction mixture was then bubbled 9.9 g (0.1 mole) phosgene. The reaction was stirred at about 25° C for about 17 hours. The acetonitrile solvent was evaporated under reduced pressure and the residue was diluted with benzene and filtered to give a filtrate solution of N-1,1,2,2-tetrachloroethylthio N-methyl carbamoyl chloride in benzene.

reactant | methylamine | 0.1 mole, 3.1 g | CN | CH5N
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 1,1,2,2-tetrachloroethylsulfenyl chloride | 0.1 mole, 23.4 g | ClC(C(Cl)Cl)(SCl)Cl | C2HCl5S
reactant | phosgene | 0.1 mole, 9.9 g | C(=O)(Cl)Cl | CCl2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-1,1,2,2-tetrachloroethylthio N-methyl carbamoyl chloride | ClC(C(Cl)Cl)(Cl)SN(C(=O)Cl)C | C4H4Cl5NOS
